US05045561
Step C: Preparation of N,N-Dimethyl-4-oxo-4H-furano[2,3-b]thiopyran-6-carboxamide
To a stirred solution of 4-oxo-4H-furano[2,3-b]thiopyran-6-carboxylic acid (9.9 g, 0.05 mol) in tetrahydrofuran (50 ml) was added carbonyldimidazole (8.9 g, 0.055 mol). The mixture was stirred at ambient temperature for 3/4 hr. Anhydrous dimethylamine was bubbled into the reaction mixture at 0° C. The reaction was stirred at 0° C. for 3/4 hr. and the solvents were evaporated in vacuo. The residue was treated with H2O (150 ml) and the solid that separated was collected and dried in vacuo.

reactant | 4-oxo-4H-furano[2,3-b]thiopyran-6-carboxylic acid | 0.05 mol, 9.9 g | O=C1C2=C(SC(=C1)C(=O)O)OC=C2 | C8H4O4S
reactant | carbonyldimidazole | 0.055 mol, 8.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N,N-Dimethyl-4-oxo-4H-furano[2,3-b]thiopyran-6-carboxamide | CN(C(=O)C1=CC(C2=C(S1)OC=C2)=O)C | C10H9NO3S
